US08859561B2
Preparation of (E)-10-methyl-7-(2-(6-methylpyridin-3-yl)prop-1-enyl)-2,3,5,6,7,11c-hexahydro-1H-indolizino[7,8-b]indole [Compound No. 32]
To a degassed solution of 9-methyl-2,3,4,5,6,10c-hexahydro-1H-3a,6-diaza-cyclopenta[c]fluorene (50 mg, 0.22 mmol), potassium phosphate (100 mg, 0.462 mmol), L-proline (5 mg, 0.022 mmol) and copper iodide (5 mg, 0.044 mmol) in DMF (1 mL) was added 5-(2-bromo-1-methyl-vinyl)-2-methyl-pyridine (80 mg, 0.375 mmol). The reaction mixture was stirred at 120° C. for 20 h. The progress of reaction was monitored by TLC and LCMS. The reaction mixture was diluted with water (20 mL) and extracted with EtOAc (3×10 mL). The organic layer was washed with water (3×10 mL), followed by brine (15 mL), dried over anhydrous Na2SO4 and evaporated under reduced pressure. The residue was purified by reverse phase HPLC;

reactant | 9-methyl-2,3,4,5,6,10c-hexahydro-1H-3a,6-diaza-cyclopenta[c]fluorene | 0.22 mmol, 50 mg | CC1=CC=2C=3C4N(CCC3NC2C=C1)CCC4 | C15H18N2
reactant | potassium phosphate | 0.462 mmol, 100 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | L-proline | 0.022 mmol, 5 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 5-(2-bromo-1-methyl-vinyl)-2-methyl-pyridine | 0.375 mmol, 80 mg | BrC=C(C)C=1C=CC(=NC1)C | C9H10BrN
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
catalyst | copper iodide | 0.044 mmol, 5 mg | [Cu](I)I
product | (E)-10-methyl-7-(2-(6-methylpyridin-3-yl)prop-1-enyl)-2,3,5,6,7,11c-hexahydro-1H-indolizino[7,8-b]indole | CC1=CC=2C3=C(N(C2C=C1)\C=C(/C)\C=1C=NC(=CC1)C)CCN1CCCC13 | C24H27N3
